US07666888B2
N,N-Dimethyl-3-phenyl-1-[(5-phenylisoxazol-4-yl)carbonyl]pyrrolidine-3-carboxamide
To a solution of 5-phenylisoxazol-4-carboxylic acid (15 mg, 0.08 mmol) in dichloromethane (2 mL) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC) (15 mg, 0.08 mol), triethylamine (33 μL, 0.24 mmol) and finally N,N-dimethyl-3-phenylpyrrolidine-3-carboxamide hydrochloride (15 mg, 0.06 mmol) and allowed to stir at ambient temperature overnight. The residue was purified using straight phaseHPLC (1:1 hexane/ethyl acetate) to afford the title compound (4 mg). HRMS (ESI, pos. ion) m/z calcd for C23H23N3O3: 389.1739, found 389.1744.

reactant | 5-phenylisoxazol-4-carboxylic acid | 0.08 mmol, 15 mg | C1(=CC=CC=C1)C1=C(C=NO1)C(=O)O | C10H7NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.08 mol, 15 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.24 mmol, 33 μL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethyl-3-phenylpyrrolidine-3-carboxamide hydrochloride | 0.06 mmol, 15 mg | Cl.CN(C(=O)C1(CNCC1)C1=CC=CC=C1)C
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N,N-Dimethyl-3-phenyl-1-[(5-phenylisoxazol-4-yl)carbonyl]pyrrolidine-3-carboxamide | 4 mg | CN(C(=O)C1(CN(CC1)C(=O)C=1C=NOC1C1=CC=CC=C1)C1=CC=CC=C1)C | C23H23N3O3
